US04794183
6-Hexadecyloxymethyl-3,4-dihydro-2H-pyran
5.71 g of 6-hydroxymethyl-3,4-dihydro-2H-pyran, 16.79 g of hexadecyl bromide and 8.22 g of pulverized 85% potassium hydroxide were mixed in 160 ml of toluene and heated under reflux for 2 hours. The mixtured was then cooled, washed with water, dried and condensed by evaporation under reduced pressure. The resulting oily residue, 17 g, was subjected to column chromatography through 400 g of silica gel. The fraction eluted with a 1:5 by volume mixture of diethyl ether and hexane gave 14.38 g of the title compound as a colorless oily substance.

reactant | 6-hydroxymethyl-3,4-dihydro-2H-pyran | 5.71 g | OCC1=CCCCO1 | C6H10O2
reactant | hexadecyl bromide | 16.79 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | potassium hydroxide | [OH-].[K+]
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Hexadecyloxymethyl-3,4-dihydro-2H-pyran | 14.38 g | C(CCCCCCCCCCCCCCC)OCC1=CCCCO1 | C22H42O2
